US07049460B1
4-(N-Boc-Aminomethyl)aniline (1)
4-Aminobenzylamine (2 ml; 17.6 mmol) was dissolved in 1,4-dioxane (10 ml). An aqueous 2 N NaOH solution (17.6 ml; 35.2 mmol) was added with stirring. A solution of di-tert-butyl pyrocarbonate (3.08 g; 14.1 mmol) in 1,4-dioxane (30 ml) was added dropwise over 30 min and the reaction mixture was stirred at room temperature overnight. The solution was concentrated under reduced pressure to approximately 10 ml and extracted twice with ethyl acetate (30 ml). The combined organic phases were washed with aqueous 5% KHSO4 (10 ml), aqueous 5% NaHCO3, water and salt solution, dried over anhydrous Na2SO4 and evaporated under reduced pressure, the resulting product being a light yellow solid substance.

reactant | 4-Aminobenzylamine | 17.6 mmol, 2 ml | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | NaOH | 35.2 mmol, 2 N, 17.6 ml | [OH-].[Na+]
reactant | di-tert-butyl pyrocarbonate | 14.1 mmol, 3.08 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-(N-Boc-Aminomethyl)aniline | C(=O)(OC(C)(C)C)NCC1=CC=C(N)C=C1 | C12H18N2O2
